US06432955B1
92e. (1-(R)-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-carbonyl}2-iso-propylsulfanyl-2-methyl-propyl)-carbamic acid ethyl ester hydroacetate
A mixture of 1-[2-(R)-ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl]-pyrrolidine-2-(S)-carboxylic acid (0.160 g), 6-aminomethyl-isoquinolin-1-ylamine (0.078 g), N-methyl morpholine (0.14 mL) and 0.14 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) in 3 mL of dry N,N-dimethyl formamide was stirred for 3 h at ambient temperature. 0.100 mL CH3COOH were added, the mixture was concentrated and the remaining residue was purified by HPLC (RP-18; H2O/CH3OH 95/5→0/100) to give 0.17 g (66%) of the title compound as a colorless oil. (+)-APCI-MS: 516 (MH+).

reactant | 1-[2-(R)-ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl]-pyrrolidine-2-(S)-carboxylic acid | 0.160 g | C(C)OC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)O)C(C)(C)SC(C)C | C16H28N2O5S
reactant | 6-aminomethyl-isoquinolin-1-ylamine | 0.078 g | NCC=1C=C2C=CN=C(C2=CC1)N | C10H11N3
reactant | N-methyl morpholine | 0.14 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.14 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
solvent | CH3COOH | 0.100 mL | CC(=O)O | C2H4O2
product | (1-(R)-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidine-1-carbonyl}2-iso-propylsulfanyl-2-methyl-propyl)-carbamic acid ethyl ester | 0.17 g, 66% | C(C)OC(N[C@@H](C(C)(C)SC(C)C)C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)=O | C26H37N5O4S
